US08497368B2
(E)-2-(1-(3-(Quinolin-6-ylmethyl)-[1,2,4]-triazolo[4,3-b]pyridazin-6-yl)ethylidene)-hydrazinecarboxamide (Example 37)
A solution of 1-(3-(quinolin-6-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone (35 mg, 0.115 mmol) and hydrazinecarboxamide hydrochloride (17.32 mg, 0.231 mmol) in MeOH was stirred at room temperature for overnight. Solid was filtered and dried to provide the title compound as a light yellow solid (35 mg, 84%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.90 (s, 1H), 9.10 (d, 1H), 8.79 (d, 1H), 8.37 (d, 1H), 8.17 (m, 3H), 8.03 (d, 1H), 7.83 (m, 1H), 6.85 (broad, 2H), 4.84 (s, 2H), 2.24 (s, 3H). LCMS (method A): [MH]+=361.1, tR=3.58 min.

reactant | 1-(3-(quinolin-6-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone | 0.115 mmol, 35 mg | N1=CC=CC2=CC(=CC=C12)CC1=NN=C2N1N=C(C=C2)C(C)=O | C17H13N5O
reactant | hydrazinecarboxamide hydrochloride | 0.231 mmol, 17.32 mg | Cl.N(N)C(=O)N
solvent | MeOH | CO | CH4O
product | (E)-2-(1-(3-(Quinolin-6-ylmethyl)-[1,2,4]-triazolo[4,3-b]pyridazin-6-yl)ethylidene)-hydrazinecarboxamide | 35 mg, 84% | N1=CC=CC2=CC(=CC=C12)CC1=NN=C2N1N=C(C=C2)\C(\C)=N\NC(=O)N | C18H16N8O
